US07326791B2
4-[3-(2-aminoethyl)piperidin-1-ylcarbonyl]-3-chloro-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]benzamide
Prepared analogously to Example 1d from rac.-2-chloro-4-{N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]aminocarbonyl}benzoic acid, rac.-3-(2-aminoethyl)piperidine, PFTU, and diisopropylethylamine in DMSO at ambient temperature. HPLC-MS results: retention time: 3.88 minutes; C24H27Cl2N5O2 (488.42); mass spectrum: (M−H)−=487/489/491 (chlorine isotope).

reactant | rac.-2-chloro-4-{N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]aminocarbonyl}benzoic acid | ClC1=C(C(=O)O)C=CC(=C1)C(=O)NC(C)C1=NC2=C(N1)C=CC(=C2)Cl | C17H13Cl2N3O3
reactant | rac.-3-(2-aminoethyl)piperidine | NCCC1CNCCC1 | C7H16N2
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chlorine | ClCl | Cl2
solvent | DMSO | CS(=O)C | C2H6OS
product | 4-[3-(2-aminoethyl)piperidin-1-ylcarbonyl]-3-chloro-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]benzamide | NCCC1CN(CCC1)C(=O)C1=C(C=C(C(=O)NC(C)C2=NC3=C(N2)C=CC(=C3)Cl)C=C1)Cl | C24H27Cl2N5O2
